US08557872B2
Step 1: Synthesis of N-methoxy-N-methyl-2-nitro-4-trifluoromethyl-benzamide
2-Nitro-4-trifluoromethyl-benzoic acid (2.753 mg, 11.7 mmol) in THF was reacted with N,O-dimethylhydroxy amine (1.277 g, 13.1 mmol), NMM (3 ml) and DMTMM (3.34 g) at room temperature overnight. The reaction mixture was quenched by adding H2O. The mixture was extracted with ethyl acetate (50 ml×3). The combined organic layer was washed 1M NaHCO3 (50 ml×2), 3% HCl (50 ml×2) and brine (50 ml), and then dried over MgSO4. The filterate was concentrated in vacuo to yield the title compound (2.84 g, 87%).

reactant | 2-Nitro-4-trifluoromethyl-benzoic acid | 11.7 mmol, 2.753 mg | [N+](=O)([O-])C1=C(C(=O)O)C=CC(=C1)C(F)(F)F | C8H4F3NO4
reactant | N,O-dimethylhydroxy amine | 13.1 mmol, 1.277 g | CNOC | C2H7NO
reactant | NMM | 3 ml | CN1CCOCC1 | C5H11NO
reactant | DMTMM | 3.34 g | C[N+]1(CCOCC1)C2=NC(=NC(=N2)OC)OC.[Cl-]
solvent | THF | C1CCOC1 | C4H8O
product | N-methoxy-N-methyl-2-nitro-4-trifluoromethyl-benzamide | 2.84 g, 87% | CON(C(C1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-])=O)C | C10H9F3N2O4
